US07960397B2
6-(2,3-dihydroxybenzylamino)-9-(tetrahydropyran-2-yl)purine.
A mixture of 10 mmol (2387 mg) 6-chloro-9-(tetrahydropyran-2-yl)purine (prepared from 10 mmol (1546 mg) of 6-chloropurine), 12 mmol (2100 mg) 2,3dihydroxybenzylamine hydrochloride, and 7 mL of triethylamine was refluxed in n-propanol for 3 hrs. After removal of the n-propanol by vacuum evaporation, the resulting material was treated with water and extracted into ethyl acetate. The ethyl acetate solvent was evaporated and the residuum subsequently washed with 30 ml of petroleum ether. The solid residue was filtered off and the crude product crystallized from methanol. Yield 60%, white solid. TLC (CHCl3:methanol) (4:1) (v:v): single spot; HPLC: purity >98%. 1H-NMR (300 MHz, DMSO): 1.57m (2H); 1.71m (1H); 1.95m (2H); 2.27qq (1H, Ja=12 Hz, Jb=4.0 Hz); 3.67m (1H); 4.00d (1H, J=11.7 Hz); 4.58bs (2H); 5.63dd (1H, Ja=11.2 Hz, Jb=1.9 Hz); 6.55tt (1H, Ja=7.7 Hz, Jb=1.5 Hz); 6.63dd (1H, Ja=7.7 Hz, Jb=1.8 Hz); 6.66dd (1H, Ja=7.7 Hz, Jb=1.8 Hz); 8.24s (1H); 8.27bs (1H); 8.37s (1H), 8.96bs (1H), 9.53bs (1H). MS (ES): [M+H]+=342 (100).

reactant | 6-chloro-9-(tetrahydropyran-2-yl)purine | 10 mmol, 2387 mg | ClC1=C2N=CN(C2=NC=N1)C1OCCCC1 | C10H11ClN4O
reactant | 6-chloropurine | 1546 mg | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | 2,3dihydroxybenzylamine hydrochloride | 12 mmol, 2100 mg | Cl.OC1=C(CN)C=CC=C1O
reactant | triethylamine | 7 mL | C(C)N(CC)CC | C6H15N
solvent | n-propanol | C(CC)O | C3H8O
product | 6-(2,3-dihydroxybenzylamino)-9-(tetrahydropyran-2-yl)purine | Yield 60% | OC1=C(CNC2=C3N=CN(C3=NC=N2)C2OCCCC2)C=CC=C1O | C17H19N5O3
